US07700641B2
B. Synthesis of ethyl[4-bromo-3-(6-hydroxy-2,3-dihydro-1-benzofuran-5-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate
Following the procedure as described in PREPARATION 2C, and making non-critical variations to replace 1-(2-cyclopropylethyl)-3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one with ethyl[4-bromo-3-hydroxy-3-(6-hydroxy-2,3-dihydro-1-benzofuran-5-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate, the title compound was obtained (81%) as a white solid: 1H NMR (CDCl3, 300 MHz) δ 7.31-7.19 (m, 3H), 6.75 (d, 1H), 6.50-6.45 (m, 1H), 5.08 (s, 1H), 5.09-4.36 (m, 4H), 4.20 (q, 2H), 3.14-2.90 (m, 2H), 1.23 (t, 3H); MS (ES+) m/z 433.3 (M+1).

reactant | 1-(2-cyclopropylethyl)-3-hydroxy-3-(6-hydroxy-1,3-benzodioxol-5-yl)-1,3-dihydro-2H-indol-2-one | C1(CC1)CCN1C(C(C2=CC=CC=C12)(C1=CC2=C(OCO2)C=C1O)O)=O | C20H19NO5
reactant | ethyl[4-bromo-3-hydroxy-3-(6-hydroxy-2,3-dihydro-1-benzofuran-5-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate | C(C)OC(CN1C(C(C2=C(C=CC=C12)Br)(C=1C(=CC2=C(CCO2)C1)O)O)=O)=O | C20H18BrNO6
product | ethyl[4-bromo-3-(6-hydroxy-2,3-dihydro-1-benzofuran-5-yl)-2-oxo-2,3-dihydro-1H-indol-1-yl]acetate | C(C)OC(CN1C(C(C2=C(C=CC=C12)Br)C=1C(=CC2=C(CCO2)C1)O)=O)=O | C20H18BrNO5
